US08039469B2
Step 3: Preparation of 1-(4-(4-(4-aminophenyl)-6-(3,5-dimethyl morpholino)-1,3,5-triazin-2-yl)phenyl)-3-methylurea
The title compound was prepared by following the procedure of example 462 step 4 using 1-(4-(4-chloro-6-(3,5-dimethylmorpholino)-1,3,5-triazin-2-yl)phenyl)-3-methylurea and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline. Yield 2 g, 86% yield.

reactant | 1-(4-(4-chloro-6-(3,5-dimethylmorpholino)-1,3,5-triazin-2-yl)phenyl)-3-methylurea | ClC1=NC(=NC(=N1)N1C(COCC1C)C)C1=CC=C(C=C1)NC(=O)NC | C17H21ClN6O2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
product | 1-(4-(4-(4-aminophenyl)-6-(3,5-dimethyl morpholino)-1,3,5-triazin-2-yl)phenyl)-3-methylurea | 86% yield | NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1C(COCC1C)C)C1=CC=C(C=C1)NC(=O)NC | C23H27N7O2
